resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.010779
R2 0 n2 1.007124
R3 0 n4 1.018132
R4 n1 n3 1.003379
R5 n1 n5 0.994854
R6 n2 n3 48.277791
R7 n2 n6 1.009511
R8 n3 n7 0.987953
R9 n4 n5 1.002545
R10 n4 n6 0.993502
R11 n5 n7 1.004736
R12 n6 n7 1.011077
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
